US07816357B2
Preparation of 4-((7-(4-Chlorophenyl)-3,6-dioxo-8-(pyridin-4-yl)-2,3-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-5(6H)-yl)methyl)benzonitrile
To the solution of 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione (8 mg, 0.023 mmol), prepared as described in Example 9 in DMF (0.3 ml) was added K2CO3 (5 mg, 0.036 mmol) followed by 4-(bromomethyl)benzonitrile (5 mg, 0.025 mmol). After 15 min, the reaction mixture was diluted with ethyl acetate. The resultant solution was then washed with water. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by reverse phase HPLC to give the title compound, 4-((7-(4-chlorophenyl)-3,6-dioxo-8-(pyridin-4-yl)-2,3-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-5(6H)-yl)methyl)benzonitrile, (4.2 mg, 32%) as a mono trifluoroacetate salt as a yellow foam. MS M+H=454; 1H (CD3OD) δ 8.68(2H), 7.71-7.65(6H), 7.28(2H), 7.20(2H), 5.94(2H).

reactant | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione | 0.023 mmol, 8 mg | ClC1=CC=C(C=C1)C1=C(C=2N(NC1=O)C(NN2)=O)C2=CC=NC=C2 | C16H10ClN5O2
reactant | K2CO3 | 0.036 mmol, 5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(bromomethyl)benzonitrile | 0.025 mmol, 5 mg | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
solvent | DMF | 0.3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-((7-(4-chlorophenyl)-3,6-dioxo-8-(pyridin-4-yl)-2,3-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-5(6H)-yl)methyl)benzonitrile | 4.2 mg, 32% | ClC1=CC=C(C=C1)C1=C(C=2N(N(C1=O)CC1=CC=C(C#N)C=C1)C(NN2)=O)C2=CC=NC=C2 | C24H15ClN6O2
